US08536168B2
4-(4-Benzyl-phthalazin-1-yl)-5′-isopropyl-3,4,5,6-tetrahydro-2H-[1,2′]bipyrazinyl
4-(4-Benzyl-phthalazin-1-yl)-5′-isopropenyl-3,4,5,6-tetrahydro-2H-[1,2′]bipyrazinyl (50 mg, 0.118 mmol) is dissolved in MeOH (2 mL). Palladium hydroxide (25 mg) is added to the flask capped with a septum and balloon of hydrogen. The reaction is stirred 3 h at room temperature. Filter through a small pad of silica gel and wash behind with EtOAc. Concentrate the filtrate in vacuo. The residue is purified by flash chromatography on silica gel (EtOAc/Heptane) to afford the title compound (17.6 mg, 35%).

reactant | 4-(4-Benzyl-phthalazin-1-yl)-5′-isopropenyl-3,4,5,6-tetrahydro-2H-[1,2′]bipyrazinyl | 0.118 mmol, 50 mg | C(C1=CC=CC=C1)C1=NN=C(C2=CC=CC=C12)N1CCN(CC1)C1=NC=C(N=C1)C(=C)C | C26H26N6
reactant | hydrogen | [H][H] | H2
solvent | MeOH | 2 mL | CO | CH4O
catalyst | Palladium hydroxide | 25 mg | [OH-].[Pd+2].[OH-]
product | 4-(4-Benzyl-phthalazin-1-yl)-5′-isopropyl-3,4,5,6-tetrahydro-2H-[1,2′]bipyrazinyl | 17.6 mg, 35% | C(C1=CC=CC=C1)C1=NN=C(C2=CC=CC=C12)N1CCN(CC1)C1=NC=C(N=C1)C(C)C | C26H28N6
